US07524860B2
A mixture of cyclohexylamine (4 mL) and 5-chloro-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine, which may be produced as in Example 1A, (280 mg, 1.14 mmol) was microwaved at 155° C. for 1 h. On cooling, the product was triturated with toluene/cyclohexane, then taken up in CH2Cl2 and washed with aqueous Na2CO3. The organic layer was separated, dried (MgSO4), then concentrated to provide N5-cyclohexyl-7-(pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridine-2,5-diamine. MS m/z 309 (M+H+).

reactant | cyclohexylamine | 4 mL | C1(CCCCC1)N | C6H13N
reactant | 5-chloro-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | ClC1=CC(=CC=2N1N=C(N2)N)C=2C=NC=CC2 | C11H8ClN5
product | N5-cyclohexyl-7-(pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridine-2,5-diamine | C1(CCCCC1)NC1=CC(=CC=2N1N=C(N2)N)C=2C=NC=CC2 | C17H20N6
